US04435407
To the suspension of 12.9 g of 1-methyl-β-oxo-2-pyrrolepropionitrile (U.S. Pat. No. 4,256,759) in 150 ml of dry toluene and 10.1 g of anhydrous triethylamine are added 10.8 g of 3-pyridyl isocyanate while stirring. After all solids are dissolved, the solution is allowed to stand at room temperature overnight. The mixture is evaporated to dryness, the residue taken up in methanol and the solution is neutralized to pH ca. 6 with 3 N hydrochloric acid and diluted with 600 ml of water. The resulting precipitate is collected, washed with water, and dried to yield the β-oxo-α-(3-pyridylcarbamoyl)-β-(1-methyl-2-pyrrolyl)propionitrile.

reactant | 1-methyl-β-oxo-2-pyrrolepropionitrile | 12.9 g | CN1C(=CC=C1)C(CC#N)=O | C8H8N2O
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
reactant | 3-pyridyl isocyanate | 10.8 g | N1=CC(=CC=C1)N=C=O | C6H4N2O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | β-oxo-α-(3-pyridylcarbamoyl)-β-(1-methyl-2-pyrrolyl)propionitrile | O=C(C(C#N)C(NC=1C=NC=CC1)=O)C=1N(C=CC1)C | C14H12N4O2
